US04489075
A mixture of 4-isopropenyl pyridine (1.79 g) and isothiazolidine-1,1-dioxide (1.81 g) was heated at 130° C. during the addition of "Triton B" (Trade Mark, trimethylbenzylammonium hydroxide) (0.25 g added every hour for four hours; 40% solution in water). After stirring for 16 hours at 130° the mixture was cooled and taken in chloroform (50 cm3) and water (50 cm3). The aqueous phase was extracted with chloroform (3×20 cm3) and the dried (MgSO4) extracts were evaporated to given an oil. Chromatography on silica ("Merck 60. 9385") eluting with ethyl acetate gave 2-[2-(4-pyridyl)prop-1-yl]isothiazolidine-1,1-dioxide which crystallised from ethyl acetate-hexane as needles, m.p. 90°-92° (1.01 g).

reactant | 4-isopropenyl pyridine | 1.79 g | C(=C)(C)C1=CC=NC=C1 | C8H9N
reactant | isothiazolidine-1,1-dioxide | 1.81 g | S1(NCCC1)(=O)=O | C3H7NO2S
reactant | trimethylbenzylammonium hydroxide | [OH-].C[N+](CC1=CC=CC=C1)(C)C
solvent | water | O | H2O
solvent | chloroform | 50 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 cm3 | O | H2O
product | 2-[2-(4-pyridyl)prop-1-yl]isothiazolidine-1,1-dioxide | N1=CC=C(C=C1)C(CN1S(CCC1)(=O)=O)C | C11H16N2O2S
